US08975398B2
tert-butyl 4-(4-(azetidine-3-carboxamido)phenylsulfonyl)piperidine-1-carboxylate
tert-Butyl 4-(4-(1-(benzyloxycarbonyl)azetidine-3-carboxamido)phenylsulfonyl)piperidine-1-carboxylate (7.94 g, 14.24 mmol) and ethanol (160 ml) were added to 20% Pd(OH)2/C, wet (1.5 g, 1.089 mmol) in a 250 mL SS pressure bottle and the mixture was stirred for 16 hours at 30 psi and room temperature. The mixture was filtered through a nylon membrane and concentrated to give the title compound.

reactant | tert-Butyl 4-(4-(1-(benzyloxycarbonyl)azetidine-3-carboxamido)phenylsulfonyl)piperidine-1-carboxylate | 14.24 mmol, 7.94 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C28H35N3O7S
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | tert-butyl 4-(4-(azetidine-3-carboxamido)phenylsulfonyl)piperidine-1-carboxylate | N1CC(C1)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C20H29N3O5S
